US07544704B2
2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-thiazole-5-carboxylic acid methyl ester
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (92 mg, 0.50 mmol) was converted (using methyl 2-bromothiazole-5-carboxylate instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 139 mg, 86%) which was obtained as a light yellow solid. MS: m/e=325.2 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.50 mmol, 92 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | methyl 2-bromothiazole-5-carboxylate | BrC=1SC(=CN1)C(=O)OC | C5H4BrNO2S
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-thiazole-5-carboxylic acid methyl ester | 139 mg, 86% | COC(=O)C1=CN=C(S1)C#CC=1C(=NOC1C)C1=CC=CC=C1 | C17H12N2O3S
